* N:\My Documents\ece317\converter\lab4\FullConverter.asc
V1 N001 0 10
C1 N001 0 100µ
R1 N001 Comp 1k
Q1 N001 Comp N005 0 2N2222
Q2 0 Comp N005 0 2N2907
M1 N002 N005 N001 N001 Si7113DN
L1 N002 N003 560µ Ipk=0.55 Rser=0.23 Rpar=1.19795e+06 Cpar=0
C2 N003 0 100µ
D1 0 N002 D
R2 N003 test 5
R3 test 0 20
M2 N004 Vs N006 N006 NMOS
R4 Vs N006 47
XU1 0 saw N015 N007 N016 saw saw N007 NE555
V2 N007 0 15
R5 P001 P002 560
Q3 saw N014 P002 0 2N2907
D2 N014 N007 1N750
C3 N016 0 10n
R6 N014 0 2.7k
C4 saw 0 3.3n
C5 N007 0 1µ
R§Freq_adj1 N007 P001 2440
XU2 0 saw N010 0 NC_01 NC_02 Comp N007 LT1011
R7 N007 Comp 4.7k
C6 N007 0 1µ
C7 N010 N013 1µ
R8 N011 N010 220k
XVR1 N009 N012 N011 potentiometer R=10k wiper=.8
R9 N007 N009 12k
R10 N012 0 3.3k
vi1 N013 0 0
.model D D
.lib \\thoth.cecs.pdx.edu\Home07\nip2\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib \\thoth.cecs.pdx.edu\Home07\nip2\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib \\thoth.cecs.pdx.edu\Home07\nip2\My Documents\LTspiceXVII\lib\cmp\standard.mos
* DC to DC buck converter as specified by Fig. 14.1
* Sawtooth generator
.tran 8m
* Comparator
* DC + superimposed AC
* duty ratio adj
.lib LTC1.lib
.lib NE555.sub
.lib potentiometer.lib
.backanno
.end
